US05439917
2-Chloro-3-methyl-7-(2-(p-fluorophenyl)-2-hydroxyethyl)pyrrolo [2,3-b]pyridine.
A solution of 1,0 g (2,8 mmol) of 2-chloro-3-methyl-7-(p-fluorophenacyl)pyrrolo [2,3-b]pyridine hydrochloride in 50 ml methanol was treated with NaBH in the same manner as ex. 18 to give 0,85 g (99%) of the title compound as white solid.

reactant | 2-chloro-3-methyl-7-(p-fluorophenacyl)pyrrolo [2,3-b]pyridine hydrochloride | 2,8 mmol, 1,0 g | Cl.ClC1=C(C=2C(N(C=CC2)CC(=O)C2=CC=C(C=C2)F)=N1)C
solvent | methanol | 50 ml | CO | CH4O
product | 2-Chloro-3-methyl-7-(2-(p-fluorophenyl)-2-hydroxyethyl)pyrrolo [2,3-b]pyridine | 0,85 g, 99% | ClC1=C(C=2C(N(C=CC2)CC(O)C2=CC=C(C=C2)F)=N1)C | C16H14ClFN2O
